US04762839
Isatin (294.3 g) is suspended in tetrahydrofuran (3 liter) and thereto are added with stirring triethylamine (279 ml) and methyl isocyanate (129.8 ml) at 15° C. The mixture is stirred at 20°-25° C. for 2.5 hours (1-methylcarbamoylisatin is produced in the mixture). To the reaction mixture are added 2-ethylisothiourea hydrobromide (444.2 g) and triethylamine (55.8 ml), and the mixture is refluxed for 2 hours. After cooling, the solvent is distilled off under reduced pressure. To the residue [i.e. 3-methyl-4-hydroxy-4-(2-ethylisothioureido)carbonyl-2-oxo1,2,3,4-tetrahydroquinazoline] is added 10% hydrochloric acid (4 liter) and the mixture is stirred at 70° C. for 4 hours. After cooling, the precipitates are taken by filtration, washed with water, methanol (1 liter) and chloroform (1 liter) in this order and then dried to give 3-methyl-spiro[1,2,3,4-tetrahydroquinazoline-4,4'-imidazolidine]-2,2',5'-trione (369.2 g, yield 75 %).

reactant | Isatin | 294.3 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | methyl isocyanate | 129.8 ml | CN=C=O | C2H3NO
reactant | 1-methylcarbamoylisatin | CNC(=O)N1C(=O)C(=O)C2=CC=CC=C12 | C10H8N2O3
reactant | 2-ethylisothiourea hydrobromide | 444.2 g | Br.C(C)SC(N)=N
solvent | tetrahydrofuran | 3 liter | O1CCCC1 | C4H8O
solvent | triethylamine | 55.8 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 279 ml | C(C)N(CC)CC | C6H15N
product | 3-methyl-spiro[1,2,3,4-tetrahydroquinazoline-4,4'-imidazolidine]-2,2',5'-trione | 369.2 g, yield 75 % | CN1C(NC2=CC=CC=C2C12NC(NC2=O)=O)=O | C11H10N4O3
